US06531475B1
Ethyl 2-Amino-5-methyl-1-(2,4,6-trimethylphenyl)-1 H-pyrrole-3-carboxylate (3′)
A solution of acetol (1′) (20 mL, 0.26 mol), 2,4,6-trimethylaniline (2′) (36.5 mL, 0.260 mol), and 4-toluenesulfonic acid monohydrate (0.21 g) were refluxed in benzene (115 mL) using a Dean-Stark trap to remove water. After 2 hours, ethyl cyanoacetate (27.7 mL, 0.26 mol) was added and heating was continued for 14 hours. The mixture was cooled to room temperature, concentrated, and the residue chromatographed (elution with 15% ethyl acetate in hexanes) to afford 21.4 g (29%) of compound (3′) as a yellow oil.

reactant | acetol | CC(=O)CO | C3H6O2
reactant | 2,4,6-trimethylaniline | CC1=C(N)C(=CC(=C1)C)C | C9H13N
reactant | 4-toluenesulfonic acid monohydrate | 0.21 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl cyanoacetate | 0.26 mol, 27.7 mL | C(#N)CC(=O)OCC | C5H7NO2
solvent | benzene | 115 mL | C1=CC=CC=C1 | C6H6
product | Ethyl 2-Amino-5-methyl-1-(2,4,6-trimethylphenyl)-1 H-pyrrole-3-carboxylate | 21.4 g, 29% | NC=1N(C(=CC1C(=O)OCC)C)C1=C(C=C(C=C1C)C)C | C17H22N2O2
